US05610283
Synthesis of 6-O-Ethoxymorphine
Morphine hydrate (1.42 g, 4.68×10-3 mol) in anhydrous tetrahydrofuran (50 ml) was added dropwise over 20 min. to a stirring suspension, under argon and on an ice/water bath, of potassium hydride (1.75 g, 4.36×10-2 mol) in anhydrous tetrahydrofuran (50 ml). The suspension was stirred for 6 h. under argon on an ice/water bath and then the suspension was allowed to warm to room temperature. Ethyl iodide (0.72 ml, 9×10-3 mol) was added and the suspension was stirred under argon at room temperature for 1 h. The suspension was cooled on an ice/water bath and water (10 ml) was added dropwise to the suspension followed by hydrochloric acid (1N, 50 ml). The solvents were removed in vacuo, water (50 ml) was added to the residue and the suspension was filtered. The aqueous filtrate was extracted 2 times with chloroform (40 ml). The aqueous phase was then treated with hydrochlorid acid (6N, 5 ml) to achieve a pH of 7. The aqueous phase was then extracted 10 times with chloroform (400 ml). The combined chloroform phases were dried over magnesium sulfate, filtered and the solvent was removed in vacuo. The title compound was recovered (430 mg) as a pale brown glassy solid.

reactant | Morphine hydrate | 4.68×10-3 mol, 1.42 g | O.C1=CC(O)=C2C=3[C@@]45[C@@H](O2)[C@@H](O)C=C[C@H]4[C@@H](CC13)N(C)CC5
reactant | potassium hydride | 4.36×10-2 mol, 1.75 g | [H-].[K+]
reactant | Ethyl iodide | 9×10-3 mol, 0.72 ml | C(C)I | C2H5I
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 6-O-Ethoxymorphine | C(C)OO[C@@H]1[C@H]2[C@]34C=5C(=C(C=CC5C[C@H]([C@@H]3C=C1)N(C)CC4)O)O2 | C19H23NO4
